US07105539B2
N-[2-(1H-indol-3-yl)1-ethyl]-3-(2-mercapto-3-phenyl-propionylamino)-succinamic acid
This compound was prepared by condensing tryptamine with 2-(3-phenyl-2-tritylsulfanyl-propionylamino)-succinic acid 4-tert-butyl ester using the same coupling conditions as previously described. Deprotection and purification then provided the title compound (39%): (Pos FAB) 440 (MH+).

reactant | tryptamine | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 2-(3-phenyl-2-tritylsulfanyl-propionylamino)-succinic acid 4-tert-butyl ester | C(C)(C)(C)OC(CC(C(=O)O)NC(C(CC1=CC=CC=C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C36H37NO5S
product | N-[2-(1H-indol-3-yl)1-ethyl]-3-(2-mercapto-3-phenyl-propionylamino)-succinamic acid | 39% | N1C=C(C2=CC=CC=C12)CCNC(C(CC(=O)O)NC(C(CC1=CC=CC=C1)S)=O)=O | C23H25N3O4S
